US05965546
(C) 1-[[(Phenylsulfonyl)hydrazono]-(2-bromophenyl)methyl]-4-methylpiperazine
To a stirred solution, under nitrogen, of α-chloro-2-bromobenzaldehyde phenylsulfonylhydrazone (271.1 g; 720 mmol) in tetrahydrofuran (THF; 2 L), was added dropwise N-methylpiperazine (159.7 g; 1600 mmol). The reaction was stirred at ambient temperature for three hours, and then permitted to stand at ambient temperature for 16 hours. The reaction was chilled in an ice bath, and then filtered to remove the piperazine hydrochloride that was formed. The filtrate was concentrated to yield a brown gum. The gum was triturated with hot acetonitrile, the mixture was cooled in an ice bath, and when cold, was filtered to remove unwanted side product.

reactant | α-chloro-2-bromobenzaldehyde phenylsulfonylhydrazone | 720 mmol, 271.1 g | C1(=CC=CC=C1)S(=O)(=O)NN=C(C1=C(C=CC=C1)Br)Cl | C13H10BrClN2O2S
reactant | N-methylpiperazine | 1600 mmol, 159.7 g | CN1CCNCC1 | C5H12N2
solvent | tetrahydrofuran | 2 L | O1CCCC1 | C4H8O
product | 1-[[(Phenylsulfonyl)hydrazono]-(2-bromophenyl)methyl]-4-methylpiperazine | C1(=CC=CC=C1)S(=O)(=O)NN=C(N1CCN(CC1)C)C1=C(C=CC=C1)Br | C18H21BrN4O2S
